US03991197
5.8 G. of 4'-[5,5-dimethyl-4-(4-pyridyl)-1-pyrrolin-2-yl]-acetanilide are treated with a solution of 5.8 g. of potassium hydroxide in 58 ml. of ethanol and heated under reflux for 5 hours. Then the reaction mixture is evaporated under reduced pressure and the residue is treated with water. The resulting crystals are filtered and washed well with water. The mineral is dried and recrystallized from methanol/ether to yield 4-[2-(p-aminophenyl)-5,5-dimethyl-1-pyrrolin-4-yl]-pyridine of melting point 175°-178° C. The hydrochloride, recrystallized from methanol/ether, has a melting point of 290°-300° C.

reactant | 4'-[5,5-dimethyl-4-(4-pyridyl)-1-pyrrolin-2-yl]-acetanilide | CC1(C(CC(=N1)C1=CC=C(NC(C)=O)C=C1)C1=CC=NC=C1)C | C19H21N3O
reactant | potassium hydroxide | [OH-].[K+]
solvent | ethanol | C(C)O | C2H6O
product | 4-[2-(p-aminophenyl)-5,5-dimethyl-1-pyrrolin-4-yl]-pyridine | NC1=CC=C(C=C1)C1=NC(C(C1)C1=CC=NC=C1)(C)C | C17H19N3
